### PR TITLE
Add idxInParentFromTail function and proofs

### PR DESCRIPTION
**Pull request by math-fehr**
The goal of this function is to provide a measure for the termination of recursive function that traverse a list of operations.

As an example, interpretOpList is using this measure to prove termination.

### CODE REVIEW

File: Veir/Rewriter/WellFormed/Rewriter/Operation.lean [hunk 1]
```diff
@@ -96,7 +96,7 @@ theorem BlockPtr.opChain_detachOp_self
     by_cases i' < i
     · simp (disch := grind) only [Array.getElem_eraseIdx_of_lt]
       simp only [OperationPtr.prev!_detachOp]
-      grind [BlockPtr.OpChain, BlockPtr.OpChain_array_injective]
+      grind (gen := 20) (instances := 2000) [BlockPtr.OpChain, BlockPtr.OpChain_array_injective]
```
Comment (tobiasgrosser) [inline Veir/Rewriter/WellFormed/Rewriter/Operation.lean]: Did this change slow down this proof? Or why do we now need to add these changes?

File: Veir/IR/WellFormed.lean [hunk 2]
```diff
@@ -903,11 +904,171 @@ theorem IRContext.WellFormed.OperationPtr_parent!_ne_none_of_next!_ne_none
...
+    (opInBounds : op.InBounds ctx)
+    (hnext : (op.get! ctx).next = some nextOp)
+    (hparent : (nextOp.get! ctx).parent = some block) :
+    (op.get! ctx).parent = some block := by
+  have ⟨array, harray⟩ := hWF.opChain block (by grind)
+  have : nextOp ∈ array := by grind
+  grind
+
+/--
+  Compute the index of an operation in its parent operation's list.
```
Comment (luisacicolini) [inline Veir/IR/WellFormed.lean]:
```suggestion
  Compute the index of an operation in its parent operations' list.
```
maybe?

File: Veir/IR/WellFormed.lean [hunk 3]
```diff
@@ -903,11 +904,171 @@ theorem IRContext.WellFormed.OperationPtr_parent!_ne_none_of_next!_ne_none
...
+    case h_1 block opParent =>
+      have ⟨array, harray⟩ := hctx.opChain block (by grind)
+      grind
+    case h_2 opParent => grind
+
+grind_pattern OperationPtr.idxInParent_next_eq =>
+  nextOp.idxInParent ctx hnextOp hctx, (op.get! ctx).next, some nextOp
+
+/--
+  Compute the index of an operation in its parent operation's list from the tail
```
Comment (luisacicolini) [inline Veir/IR/WellFormed.lean]:
```suggestion
  Compute the index of an operation in its parent operations' list from the tail
```
as above?

File: Veir/IR/WellFormed.lean (hunk 2 above)
Comment (ineol) [reply Veir/IR/WellFormed.lean]: or "Compute the index of an operation in its parent's operations list"?

File: Veir/IR/WellFormed.lean [hunk 4]
```diff
@@ -903,11 +904,171 @@ theorem IRContext.WellFormed.OperationPtr_parent!_ne_none_of_next!_ne_none
...
+    (op : OperationPtr) (ctx : IRContext) (nextOp : OperationPtr)
+    (hnext : (op.get! ctx).next = some nextOp)
+    (hnextOp : nextOp.InBounds ctx)
+    (hop : op.InBounds ctx)
+    (hctx : ctx.WellFormed) :
+    nextOp.idxInParent ctx hnextOp hctx =
+      op.idxInParent ctx hop hctx + 1 := by
+  simp only [OperationPtr.idxInParent]
+  split
+  case h_1 block nextParent =>
```
Comment (ineol) [inline Veir/IR/WellFormed.lean]: I'm not a fan of `h_1`

File: Veir/Interpreter.lean [hunk 5]
```diff
@@ -135,7 +135,8 @@ def interpretOpList (ctx : IRContext) (op : OperationPtr) (state : InterpreterSt
     interpretOpList ctx next state
   | .return results =>
     return results
-partial_fixpoint
+termination_by op.idxInParentFromTail ctx
+decreasing_by grind
```
Comment (ineol) [inline Veir/Interpreter.lean:139]: 🥳

File: Veir/Rewriter/WellFormed/Rewriter/Operation.lean (hunk 1 above)
Comment (ineol) [reply Veir/Rewriter/WellFormed/Rewriter/Operation.lean]: At least the `gen := 20` is not necessary.

Grind diagnostics say:
```
[grind] Diagnostics ▼
  [thm] E-Matching instances ▼
    [] OpChain_array_injective ↦ 225 
    [] OpChain.mem_of_mem_next! ↦ 218 
    [] OpChain.mem_next!_of_mem ↦ 205 
    [] OpChain.parent!_nextOp_eq ↦ 143 
    [] OpChain.parent!_prevOp_eq ↦ 143 
    [] OperationPtr.parent!_next ↦ 121 
    [] getElem?_pos ↦ 40 
    [] getElem?_neg ↦ 25 
```

Comment (ineol) [reply Veir/Rewriter/WellFormed/Rewriter/Operation.lean]: In general I would like to understand why adding unrelated grind lemmas change the number of e-matching instances.

Comment (math-fehr) [reply Veir/Rewriter/WellFormed/Rewriter/Operation.lean]: Yes, I'll remove `get := 20`!
`instances` is just the cap on the number of times a grind theorem might trigger.
Since this added more things to the grind sets that got triggered, it reached the cap
